US04374249
A mixture of 2.0 g. (0.015 mole) of L-thiazolidine-4-carboxylic acid and 2.72 g. (0.015 mole) of dicyclohexylamine is heated on a steam bath then 50 ml. of dry dioxane and 50 ml. of acetonitrile are added. To this mixture is added 4.2 g. (0.015 mole) of 3-benzoyl-2-methylpropionic acid, N-hydroxysuccinnimide ester, then the mixture is refluxed for 48 hours. The mixture is evaporated in vacuo. The residue is stirred with ethyl acetate and filtered. The filtrate is concentrated in vacuo and the residue is dissolved in dichloromethane. The dichloromethane is washed with sodium bisulfate and then extracted with saturated sodium bicarbonate solution. The sodium bicarbonate wash is added to dilute aqueous hydrochloric acid and the mixture is extracted with dichloromethane. The organic layer is dried over sodium sulfate and concentrated to an oil. The oil is crystallized from acetone-hexane to give [4R-(4R*,2'R*)]-3-(3-benzoyl-2-methylpropionyl)-4-thiazolidinecarboxylic acid as white crystals, m.p. 182°-183° C.; [α]D 23 -63°±4 (C, 0.24, CH3OH).

reactant | L-thiazolidine-4-carboxylic acid | 0.015 mole | C1C(NCS1)C(=O)O | C4H7NO2S
reactant | dicyclohexylamine | 0.015 mole | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | 3-benzoyl-2-methylpropionic acid | 0.015 mole | C(C1=CC=CC=C1)(=O)CC(C(=O)O)C | C11H12O3
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-(3-benzoyl-2-methylpropionyl)-4-thiazolidinecarboxylic acid | C(C1=CC=CC=C1)(=O)CC(C(=O)N1CSCC1C(=O)O)C | C15H17NO4S
